US06864390B2
Diphenylphosphoryl azide (8.07 mL, 37.4 mmol), triethylamine (5.36 mL, 39 mmol), and ((1S,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl)-acetic acid (7.93 g, 37 mmol) were refluxed in toluene (80 mL) for 17 hours. The mixture was allowed to cool and then taken up in ethyl acetate (250 mL), washed with saturated aqueous sodium hydrogen carbonate (250 mL), brine (100 mL), and dried (MgSO4). The solvent was removed under reduced pressure to give 7.82 g (100%) of ((1R,3R)-1-isocyanatomethyl-3-methyl-cyclopentyl)-acetic acid methyl ester which was used without further purification;

reactant | Diphenylphosphoryl azide | 37.4 mmol, 8.07 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 39 mmol, 5.36 mL | C(C)N(CC)CC | C6H15N
reactant | ((1S,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl)-acetic acid | 37 mmol, 7.93 g | COC(=O)C[C@@]1(C[C@@H](CC1)C)CC(=O)O | C11H18O4
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | ((1R,3R)-1-isocyanatomethyl-3-methyl-cyclopentyl)-acetic acid methyl ester | 7.82 g, 100% | COC(C[C@@]1(C[C@@H](CC1)C)CN=C=O)=O | C11H17NO3
